US06991798B1
A slurry of 9.77 g of 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione (50 mmol) and 60 ml of DMF was treated with a solution of 1,10-dibromodecane (52.52 g, 0.175 mol) and DMF (60 ml) was added. Diisopropylethylamine (9.6 ml, 55 mmol) was added dropwise. A thermometer and condenser were attached, and the flask was placed in an oil bath. The reaction was heated to 60 C for approximately 3 hrs, cooled to 47 C and hexanes (150 ml) were added. The mixture was diluted with water (175 ml). The resulting solids were removed by filtration. The aqueous layer was washed with warm hexanes. The resulting solids were filtered from the hexane layer and recrystallized from warm hexanes to give 10.39 g of 6-chloro-3-(10-bromodecyl)-2H-1,3-benzoxazine-2,4(3H)-dione.

reactant | 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione | 50 mmol, 9.77 g | ClC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4ClNO3
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | 1,10-dibromodecane | 0.175 mol, 52.52 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | Diisopropylethylamine | 55 mmol, 9.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | 175 ml | O | H2O
product | 6-chloro-3-(10-bromodecyl)-2H-1,3-benzoxazine-2,4(3H)-dione | 10.39 g | ClC=1C=CC2=C(C(N(C(O2)=O)CCCCCCCCCCBr)=O)C1 | C18H23BrClNO3
